US05047417
A mixture comprising 6.5 g of N-methyl-2-(3,4-dimethoxyphenyl)ethylamine hydroiodide, 1.6 g of methacrylonitrile and 2.4 g of triethylamine was heated at about 70° C. for 2.5 hours and cooled, followed by the addition of dichloromethane. The obtained mixture was washed with water, dried over magnesium sulfate and distilled to remove the solvent. The residue was purified by silica gel column chromatography (solvent: dichloromethane/ethanol (100:1)) to obtain 2.1 g of 3-[N-methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)-amino]-2-methylpropionitrile.

reactant | N-methyl-2-(3,4-dimethoxyphenyl)ethylamine hydroiodide | 6.5 g | I.CNCCC1=CC(=C(C=C1)OC)OC
reactant | methacrylonitrile | 1.6 g | C(C(=C)C)#N | C4H5N
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[N-methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)-amino]-2-methylpropionitrile | 2.1 g | CN(CCC1=CC(=C(C=C1)OC)OC)CC(C#N)C | C15H22N2O2
